US07666879B2
A. (1-{3-[2-(4-Bromo-2-fluoro-phenyl)-acetylamino]-phenyl}-1-methyl-ethyl)-carbamic acid tert-butyl ester
Dissolve (4-bromo-2-fluoro-phenyl)acetic acid (1.49 g, 6.39 mmol) in 25 mL amylene-stabilized chloroform and add hydroxybenzotriazole hydrate (0.95 g, 7.03 mmol), to give a slurry. Add 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (1.47 g, 7.67 mmol) and stir the resulting clear solution at room temperature for 15 minutes. Add [1-(3-amino-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester and stir for 90 minutes at room temperature. Dilute reaction with 20 mL dichloromethane and wash with saturated NaHCO3, 1 N NaHSO4, and dilute aqueous saturated sodium chloride, then dry over MgSO4 and concentrate to give a brittle tan foam. Purify the foam on a 120 g silica cartridge with 100% CH2Cl2 for 5 minutes followed by a gradient of 0→10% EtOAc in CH2Cl2 over 40 minutes. Concentrate and dry clean fractions to provide 2.11 g (71%) of the title compound as a brittle white foam. LCMS (ES) m/z 463/465 (M−1).

reactant | (4-bromo-2-fluoro-phenyl)acetic acid | 6.39 mmol, 1.49 g | BrC1=CC(=C(C=C1)CC(=O)O)F | C8H6BrFO2
reactant | hydroxybenzotriazole hydrate | 7.03 mmol, 0.95 g | O.OC1=CC=CC=2NN=NC21
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 7.67 mmol, 1.47 g | Cl.CN(CCCN=C=NCC)C
reactant | [1-(3-amino-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C)(C)C1=CC(=CC=C1)N)=O | C14H22N2O2
solvent | amylene | 25 mL | CC=C(C)C | C5H10
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (1-{3-[2-(4-Bromo-2-fluoro-phenyl)-acetylamino]-phenyl}-1-methyl-ethyl)-carbamic acid tert-butyl ester | 2.11 g, 71% | C(C)(C)(C)OC(NC(C)(C)C1=CC(=CC=C1)NC(CC1=C(C=C(C=C1)Br)F)=O)=O | C22H26BrFN2O3
